US04388463
600 mg (1.91 mmol) 5,6-didehydro-4,6-dimethoxy-N-formylmorphinan were dissolved in 13.5 ml methanol and 1.5 ml 37% hydrochloric acid were added. This mixture was heated at reflux for 17 h, then the solvent was removed in vacuo, the oily residue dissolved in water and rendered alkaline with 30% NH4OH. After extraction with CHCl3, the organic layer was washed with brine, dried and evaporated to give an oil, which was crystallized with ether to yield 450 mg (81%) 4-methoxymorphinan-6-one. 1 H2O m.p. 136°-138°, [α]D26 -75.7° (c=0.88, CHCl3).

reactant | 5,6-didehydro-4,6-dimethoxy-N-formylmorphinan | 1.91 mmol, 600 mg | COC1=CC=CC=2C[C@@H]3[C@@H]4CCC(=C[C@@]4(C12)CCN3C=O)OC | C19H23NO3
reactant | hydrochloric acid | 1.5 ml | Cl | ClH
solvent | methanol | 13.5 ml | CO | CH4O
product | 4-methoxymorphinan-6-one | 450 mg, 81% | COC1=CC=CC=2C[C@@H]3[C@@H]4CCC(C[C@@]4(C12)CCN3)=O | C17H21NO2
